US08871753B2
Step A: tert-Butyl 4-(2-bromo-4-nitrophenyl)piperazine-1-carboxylate
A solution of 2-bromo-1-fluoro-4-nitrobenzene (0.1 g, 0.45 mmol) and tert-butyl piperazine-1-carboxylate (85 mg, 0.45 mmol) in N,N-dimethylformamide (0.9 mL) was treated with potassium carbonate (94 mg, 0.68 mmol) and stirred at 20° C. for 23 h and at 60° C. for 3.5 h. The reaction mixture was diluted with water (10 mL) and ethyl acetate (20 mL). The organic layer was separated, washed with water (10 mL) and brine (10 mL), dried over anhydrous sodium sulfate, filtered, and evaporated to give a yellow oil. This material was purified by flash column chromatography to give the desired product (0.15 g, 87%) as a yellow solid. LCMS for C15H20BrN3O4Na (M+Na)+: m/z=407.9, 410.1.

reactant | 2-bromo-1-fluoro-4-nitrobenzene | 0.45 mmol, 0.1 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | tert-butyl piperazine-1-carboxylate | 0.45 mmol, 85 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | potassium carbonate | 0.68 mmol, 94 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 0.9 mL | CN(C=O)C | C3H7NO
solvent | water | 10 mL | O | H2O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-(2-bromo-4-nitrophenyl)piperazine-1-carboxylate | 0.15 g, 87% | BrC1=C(C=CC(=C1)[N+](=O)[O-])N1CCN(CC1)C(=O)OC(C)(C)C | C15H20BrN3O4
